US07713994B2
To a sample of tert-butyl {4-[4-({[2-(dimethylamino)ethyl]amino}methyl)piperidin-1-yl]phenyl}carbamate (approximately 1.0 mmol) is added hydrogen chloride solution (4 N in dioxane (10 mL). After stirring overnight at room temperature, the solvent is evaporated under reduced pressure. The solid material is collected, washed with diethyl ether, and dried under house vacuum to give the intermediate N-[1-(4-amino-phenyl)-piperidin-4-ylmethyl]-N′,N′-dimethyl-ethane-1,2-diamine tetrahydrochloride (0.29 g, 69%), which is used in the following step without further purification.

reactant | tert-butyl {4-[4-({[2-(dimethylamino)ethyl]amino}methyl)piperidin-1-yl]phenyl}carbamate | approximately 1.0 mmol | CN(CCNCC1CCN(CC1)C1=CC=C(C=C1)NC(OC(C)(C)C)=O)C | C21H36N4O2
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-[1-(4-amino-phenyl)-piperidin-4-ylmethyl]-N′,N′-dimethyl-ethane-1,2-diamine tetrahydrochloride | 0.29 g, 69% | Cl.Cl.Cl.Cl.NC1=CC=C(C=C1)N1CCC(CC1)CNCCN(C)C | InChI=1S/C16H28N4.4ClH/c1-19(2)12-9-18-13-14-7-10-20(11-8-14)16-5-3-15(17)4-6-16;;;;/h3-6,14,18H,7-13,17H2,1-2H3;4*1H
